US05130313
1-(3-Chloropropyl)-5,6-dihydro(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide can be obtained as follows: a solution of 5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (4 g) in dry N,N-dimethylformamide (30 cc) is added dropwise to a suspension of sodium hydride (0.69 g, 80% suspension in oil) in N,N-dimethylformamide (20 cc). After 30 minutes' stirring, a solution of 1-bromo-3-chloropropane (3.25 g) in N,N-dimethylformamdide (20 cc) is added. The reaction mixture is stirred at 25° C. for 2 hours and is then diluted in a mixture of water (300 cc) and ethyl acetate (300 cc). The organic phase is washed with water (3×200 cc), is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (0.2-0.063-mm particle size, 4-cm diameter, 50-cm height), and eluted at a pressure of 0.7 bars of nitrogen with a mixture of cyclohexane and ethyl acetate (80-20 by volume), 125-cc fractions being collected. Fractions 4 to 12 are combined and concentrated to dryness under reduced pressure (2.7 kPa) to give 1-(3-chloropropyl)-5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide (4.2 g) in the form of a yellow oil.

reactant | 5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 4 g | N1S(N2CCCC3=CC=CC1=C23)(=O)=O | C9H10N2O2S
reactant | sodium hydride | 0.69 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 3.25 g | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | water | 300 cc | O | H2O
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
product | 1-(3-chloropropyl)-5,6-dihydro-(1H,4H)-1,2,5-thiadiazolo[4,3,2-ij]quinoline 2,2-dioxide | 4.2 g | ClCCCN1S(N2CCCC3=CC=CC1=C23)(=O)=O | C12H15ClN2O2S
